US04962103
(2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-p-methoxybenzyloxycarbonylmethyl-4-hydroxypyrrolidine (1.40 g) and triphenylphosphine (1.18 g) were dissolved in 7 ml of dry tetrahydrofuran under nitrogen stream. To the resulting solution was added 783 mg of diethyl azodicarboxylate at 0° C., followed by stirring at the same temperature for 30 minutes. Thereafter, 342 mg of thioacetic acid was added thereto, and the mixture was stirred for 1 hour. The reaction mixture was diluted with ethyl acetate, washed successively with a saturated sodium bicarbonate solution and water, dried over anhydrous sodium sulfate and distilled to remove the solvent. The residue was purified by silica gel column chromatography to give (2R,4S)-1-(p-nitrobenzyl-oxycarbonyl)-2-p-methoxybenzyloxycarbonylmethyl-4-acetylthiopyrrolidine.

reactant | (2S,4R)-1-(p-Nitrobenzyloxycarbonyl)-2-p-methoxybenzyloxycarbonylmethyl-4-hydroxypyrrolidine | 1.40 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@H](C2)O)CC(=O)OCC2=CC=C(C=C2)OC)C=C1 | C22H24N2O8
reactant | triphenylphosphine | 1.18 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 783 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | thioacetic acid | 342 mg | C(C)(=S)O | C2H4OS
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R,4S)-1-(p-nitrobenzyl-oxycarbonyl)-2-p-methoxybenzyloxycarbonylmethyl-4-acetylthiopyrrolidine | [N+](=O)([O-])C1=CC=C(COC(=O)N2[C@@H](C[C@@H](C2)SC(C)=O)CC(=O)OCC2=CC=C(C=C2)OC)C=C1 | C24H26N2O8S
